US06852720B2
Step 1: 7-[2-(cyclohexylamino)-1,3-thiazol-5-yl]quinazolin-4(3H)-one
A solution of bromo-(4-oxo-3,4-dihydro-quinazolin-7-yl)acetaldehyde and N-cyclohexylthiourea in dimethylformamide is heated at 70° C. until completion of the reaction (5-12 hours). The mixture is quenched with 10% dimethylamine in ethanol and the solvent is removed under reduced pressured. The crude is purified by chromatography on silica gel to isolate the desired compound.

reactant | bromo-(4-oxo-3,4-dihydro-quinazolin-7-yl)acetaldehyde | BrC(C=O)C1=CC=C2C(NC=NC2=C1)=O | C10H7BrN2O2
reactant | N-cyclohexylthiourea | C1(CCCCC1)NC(=S)N | C7H14N2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[2-(cyclohexylamino)-1,3-thiazol-5-yl]quinazolin-4(3H)-one | C1(CCCCC1)NC=1SC(=CN1)C1=CC=C2C(NC=NC2=C1)=O | C17H18N4OS
